US07375227B2
357C. 4-Phenoxy-piperidine
A mixture of 1-benzyl-4-phenoxy-piperidine (420 mg, 1.6 mmol), Pd—C 10% (10 mg) and TFA (0.18 mL, 1,6 mmol) in MeOH (5 mL) is hydrogenated at room temperature and atmospheric pressure for 20 h. The mixture is filtered over Celite and the filtrate is concentrated under reduced pressure. The residue is dissolved in CH2Cl2, washed with sat. NaHCO3, filtered and concentrated to provide the title compound.

reactant | 1-benzyl-4-phenoxy-piperidine | 1.6 mmol, 420 mg | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=CC=C1 | C18H21NO
reactant | TFA | 1,6 mmol, 0.18 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd—C | 10 mg | [Pd] | Pd
product | 4-Phenoxy-piperidine | O(C1=CC=CC=C1)C1CCNCC1 | C11H15NO
